US09403831B2
(S)-2-(4-(2-(2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)morpholino)pyrimidin-5-yl)-5,6-dihydropyridin-1(2H)-yl)ethanol (Chemical Formula 12)
(S)-2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)-4-(5-(1,2,3,6-tetrahydropyridin-4-yl)pyrimidin-2-yl)morpholine HCl salt 330 mg (0.67 mmol) was dissolved in DMF 10 ml, and potassium carbonate 276 mg (1.99 mmol), bromo ethanol 71 μl (0.99 mmol), and TEA 1 ml were added, followed by stirring at room temperature overnight. When the reaction was completed, the reaction mixture was extracted several times with ethyl acetate and brine, and the organic layer was dried over Na2SO4. 7% MeOH/MC chromatography gave a product 210 mg (62%).

reactant | (S)-2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)-4-(5-(1,2,3,6-tetrahydropyridin-4-yl)pyrimidin-2-yl)morpholine HCl salt | 0.67 mmol, 330 mg | Cl.CN1N=CC(=C1)C1=CN=C2C(=N1)N(N=N2)C[C@@H]2CN(CCO2)C2=NC=C(C=N2)C=2CCNCC2
reactant | potassium carbonate | 1.99 mmol, 276 mg | C([O-])([O-])=O.[K+].[K+]
reactant | bromo ethanol | 0.99 mmol, 71 μl | BrC(C)O | C2H5BrO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | (S)-2-(4-(2-(2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)morpholino)pyrimidin-5-yl)-5,6-dihydropyridin-1(2H)-yl)ethanol | 210 mg, 62% | CN1N=CC(=C1)C1=CN=C2C(=N1)N(N=N2)C[C@H]2OCCN(C2)C2=NC=C(C=N2)C2=CCN(CC2)CCO | C24H29N11O2
